US04126689
A mixture of 4.5 parts of N-(1-cyclopentyl-4-piperidinyl)-2-pyrimidinamine, 3.4 parts of 3-methylbenzeneacetyl chloride, 2 parts of sodium carbonate and 180 parts of dimethylbenzene is stirred and refluxed for 17 hours. Another 9 parts of 3-methylbenzeneacetyl chloride is added dropwise. Upon completion, stirring is continued for 67 hours at reflux temperature. The reaction mixture is cooled, water is added and the layers are separated. The organic phase is extracted with a diluted hydrochloric acid solution. The combined aqueous phases are washed with benzene and alkalized with a diluted sodium hydroxide solution while cooling in an ice-bath. The product is extracted twice with trichloromethane. The combined extracts are dried, filtered and evaporated. The residue is converted into the ethanedioate salt in 2-propanol. The salt is filtered off and crystallized twice: first from ethanol and then from methanol, yielding 1 part of N-(1-cyclopentyl-4-piperidinyl)-3-methyl-N-(2-pyrimidinyl)benzeneacetamide ethanedioate; mp. 204.1° C.

reactant | N-(1-cyclopentyl-4-piperidinyl)-2-pyrimidinamine | C1(CCCC1)N1CCC(CC1)NC1=NC=CC=N1 | C14H22N4
reactant | 3-methylbenzeneacetyl chloride | CC=1C=C(C=CC1)CC(=O)Cl | C9H9ClO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | dimethylbenzene | CC1=C(C=CC=C1)C | C8H10
reactant | water | O | H2O
product | N-(1-cyclopentyl-4-piperidinyl)-3-methyl-N-(2-pyrimidinyl)benzeneacetamide ethanedioate | C(C(=O)O)(=O)O.C1(CCCC1)N1CCC(CC1)N(C(CC1=CC(=CC=C1)C)=O)C1=NC=CC=N1 | InChI=1S/C23H30N4O.C2H2O4/c1-18-6-4-7-19(16-18)17-22(28)27(23-24-12-5-13-25-23)21-10-14-26(15-11-21)20-8-2-3-9-20;3-1(4)2(5)6/h4-7,12-13,16,20-21H,2-3,8-11,14-15,17H2,1H3;(H,3,4)(H,5,6)
